US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 4-phenoxybenzoyl chloride (111 mg, 0.53 mmol). The final trituration (diethyl ether/hexane) and filtration gave 16 mg (12%) of 18-(4-phenoxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 97.5% pure (HPLC), MS m/z 765 (M−H)−, HRMS: calcd. 784.3228 and found 784.3208 (M+NH4)+, mp 207-209° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(COCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C25H38N4O9S
reactant | 4-phenoxybenzoyl chloride | 0.53 mmol, 111 mg | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
product | 18-(4-phenoxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-12-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene | 16 mg, 12% | O(C1=CC=CC=C1)C1=CC=C(C(=O)OC2CN3C(C(COCCCC=CC4CC4(NC(C3C2)=O)C(=O)NS(=O)(=O)C2CC2)NC(=O)OC(C)(C)C)=O)C=C1 | C38H46N4O11S
